US07834012B2
trans-2-chloro-4-fluoro-1-(6-nitrocyclohex-3-en-1-yl)benzene
A 10 mL solution of 1:1 1,3-butadiene in toluene stored at −20° C. and 2-chloro-4-fluoro-β-nitrostyrene (2.0 g, 10 mmol) were added to a pressure tube and sealed. The solution was heated to 110° C. and stirred for three days. The reaction mixture was cooled to room temperature, concentrated and the residue was crystallized from hexanes to give the title compound. 1H NMR (300 MHz, CDCl3) δ ppm 7.23-7.28 (m, 1H), 7.11-7.25 (m, 3H), 6.94-7.01 (m, 1H), 5.73-5.83 (m, 2H), 5.04-5.13 (m, 1H), 3.99-4.08 (m, 1H), 2.71-2.82 (m, 2H), 2.51-2.61 (m, 1H), 2.15-2.26 (m, 1H).

reactant | 1,3-butadiene | C=CC=C | C4H6
reactant | 2-chloro-4-fluoro-β-nitrostyrene | 10 mmol, 2.0 g | ClC1=C(C=C[N+](=O)[O-])C=CC(=C1)F | C8H5ClFNO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | trans-2-chloro-4-fluoro-1-(6-nitrocyclohex-3-en-1-yl)benzene | ClC1=C(C=CC(=C1)F)[C@@H]1CC=CC[C@H]1[N+](=O)[O-] | C12H11ClFNO2
